Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Serevent / amoxicillin / gluten
 
Attending: ___.
 
Chief Complaint:
Cough
 
Major Surgical or Invasive Procedure:
___
Right thoracotomy, diagnostic wedge resection x 2, 
tracheobronchoplasty with posterior airway splinting, 
bronchoscopy with lavage

 
History of Present Illness:
Mr. ___ is a ___ yo male, never smoker, with history of
latent TB, hypertension, pulmonary hypertension, sleep apnea, 
and
psoriatic arthritis. His breathing difficulties began suddenly 
in
___ and he has been dependent on supplemental oxygen almost
continuously since then. Has a daily cough and substantial 
oxygen
requirement (___). He underwent a comprehensive evaluation for
severe hypoxia at ___ in ___ of this year. During
this evaluation, Dr. ___ Pulmonary diagnosed him with
TBM and recommended a stent trial. Had a bronchoscopy at
___ on ___, which showed excessive dynamic 
airway
collapse mostly at the level of the carina and left main
bronchus. 80-90% collapsibility in the distal trachea and 
90-100%
collapsibility in the LMB and 75% in the RMB. Endobronchial
biopsy revealed no significant pathologic changes. Had a
bronchoscopy at ___ on ___, which showed severe malacia in
mid/distal trachea, BI/RMSB, and LMSB. Stents were placed in the
trachea, BI, RMSB, and LMSB. Presents today for follow up.

Pt reports doing well with the stents in place. He says
his oxygen use is now only intermittent and is down to ___.
Previously had syncopal episodes, would become very fatigued, 
and
had poor cognition d/t the hypoxia. Pt reports that these
symptoms have improved. Chest pain is gone and he can take 
deeper
and fuller breaths. He notes that his voice is stronger and his
family has told him that his coloring has improved. He does have
a productive cough, which he says is from excess mucous. Has 
been
using the nebulizer- saline, albuterol, and acetylcysteine.
Overall, reports great improvement in symptoms with the stents 
in
place. His stents were removed on ___ and he presents now 
for surgery.

 
Past Medical History:
PAST MEDICAL HISTORY:
Polyarthralgia
Bronchiectasis
Emphysema
Psoriatic arthropathy
Fibromyalgia
Latent TB s/p tx with INH (stopped at 6 months d/t elevated 
LFTs)

Celiac disease
Hypertension
Pulmonary hypertension
Sleep apnea
Hypokalemia
Sero negative rheumatoid arthritis (dx ___
Chronic parotid gland swelling 
s/p pyloric stenosis surgery ___
s/p bilateral carpal tunnel syndrome ___
s/p cholecystectomy ___
s/p left sided inguinal hernia repair ___
s/p pinky trigger finger release ___
s/p left & right below surgery ___, ___
s/p PFO & ASD repair ___
s/p open lung biopsy (L) ___

 
Social History:
___
Family History:
Mother- chronic progressive external ophthalmoplegia, celiac,
autoimmune arthritis, myasthenia ___, ileostomy
Father- bronchiectasis, celiac, leukemia 
Siblings- brother: psoriasis
___- 2 daughters: 1 w/ celiac, 1 gluten sensitive, both
with Tourette's 
Other- maternal GM: multiple myeloma; maternal GF: pulmonary
fibrosis; maternal aunts: RA & ___ 
 
Physical Exam:
BP: 109/65. Heart Rate: 103. O2 Saturation%: 98. Weight: 222.
Height: 66.5. BMI: 35.3. Temperature: 98.3. Resp. Rate: 16. Pain
Score: 0. Peak Flow (LPM): 1. Distress Score: 0.
Gen: NAD, alert & oriented
HEENT: normocephalic, atraumatic
Neck: supple, no palpable LAD
Chest: CTA bilaterally, breathing comfortably
Cardiac: RRR
Extrem: warm & dry, trace ___ edema

 
Pertinent Results:
 
                     WBC  RBC   Hgb   Hct   MCV MCH  MCHC RDW 
RDWSD Plt Ct 
___ 06:38    11.0* 3.80* 10.0* 30.9* 81* 26.3 32.4 14.3 
42.1 281 
___ 06:36    11.7* 3.72*  9.7* 31.0* 83  26.1 31.3* 14.2 
42.8 221 
___ 05:55    14.3* 3.88*  9.9* 32.4* 84  25.5* 30.6* 14.4 
43.8 217 
___ 00:40    15.2* 4.08* 10.6* 33.8* 83  26.0 31.4* 14.4 
43.4 282 
___ 17:30    22.0* 4.15* 10.9* 34.8* 84  26.3 31.3* 14.4 
44.0 330 

                  Glucose UreaN Creat Na  K  Cl HCO3 AnGap 
___ 06:38    123*1  5*   0.6  138 3.5 95* 29  14 
___ 06:36    116*1  6    0.7  140 3.8 99  30  11 
___ 05:55    112*1  7    0.8  139 4.0 99  30  10 
___ 00:40    127*1 12    0.7  142 4.0 ___ 
___ 17:00    168*1 12    0.9  142 4.6 ___ 

___ CXR :
Allowing for technique, cardiac, mediastinal and hilar contours 
are probably stable.  Stent was removed.  Small quantity of 
mediastinal air can be expected in the setting of very recent 
surgery.  Chest tube projects over the right hemithorax.  Linear 
density projecting over the mediastinum may lie outside of the 
patient but can be correlated with clinical circumstances.  
There is a small pneumothorax on the right with mild overlying 
subcutaneous emphysema.  New right posterolateral fifth rib 
defect is likely post-surgical. Minor right basilar atelectasis. 


___ CXR :
Heart size and mediastinum are stable.  Loculated right chest 
wall pleural 
effusion is similar to previous examination.  No appreciable 
pneumothorax.  No new consolidations. 
  

 
Brief Hospital Course:
Mr. ___ was admitted to the hospital and taken to the 
Operating Room where he underwent a right thoracotomy, 
diagnostic wedge resection x 2, tracheobronchoplasty with 
posterior airway splinting, bronchoscopy with lavage. He 
tolerated the procedure well and returned to the TSICU in stable 
condition. He maintained stable hemodynamics and his pain was 
controlled with an epidural. His chest tube drained a modest 
amount of serosanguinous fluid and had no air leak. He was able 
to cough and deep breath effectively and use his incentive 
spirometer. His CPKs were monitored closely to peak and he was 
fluid resuscitated appropriately.  

Following transfer to the Surgical floor on post op day #1 he 
progressed well.  He had minimal congestion and no significant 
cough.  His chest tube was removed on post op day #2 as the 
drainage was minimal and there was no air leak.  His post pull 
chest xray showed no pneumothorax and a small right pleural 
effusion.  He was placed back on his pre op diuretic of Lasix 40 
mg PO BID as well as Potassium 80 mEq BID and although his 
response was appropriate, he needed additional dosing with IV 
Lasix to help decrease his peripheral edema and his weight which 
was up about 10 kg from pre op.  He was effectively able to ose 
a few kgs per day and most recently is 3 kg > dry wt without any 
significant peripheral edema and minimal oxygen requirements.

His right thoracotomy site was healing well except for a 1 cm 
area of possible skin necrosis along the skin edges superiorly.  
He had a pinpoint area of scant serous drainage at the most 
upper pole and the area was covered with a DSD until it dried 
up. It will be covered with a tegaderm for showering.  He 
remained afebrile and his WBC was 11K which had trended down 
post op.  He required less narcotic pain medication as the days 
passed and generally had adequate relief with Tylenol only.
His bowel regimen was increased as he eventually required a 
dulcolax suppository. He will take daily Mirilax and Colace but 
less narcotic should also help.  

He was up and walking independently with room air saturations of 
93-96%. Occasionally at night his saturations would drop to 88% 
while sleeping and for that reason he will use his O2 at 1 LPM.  
This oxygen requirement is much less than his pre op needs when 
he required ___ LPM during the day and CPAP w/ O2 at HS.  As he 
continues to improve, he was discharged on ___ with ___ 
services for wound checks and will follow up with Dr. ___ in 
2 weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. losartan-hydrochlorothiazide 100-25 mg oral DAILY 
2. Gabapentin 600 mg PO QHS 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Methotrexate 10 mg PO 1X/WEEK (___) 
5. Metoprolol Tartrate 50 mg PO DAILY 
6. GuaiFENesin ER 1200 mg PO Q12H 
7. Atorvastatin 40 mg PO QPM 
8. Furosemide 40 mg PO BID 
9. budesonide-formoterol 160-4.5 mcg/actuation inhalation BID 
10. Omeprazole 20 mg PO DAILY 
11. Potassium Chloride 80 mEq PO BID 
12. Aspirin 81 mg PO DAILY 
13. DULoxetine ___ 90 mg PO DAILY 
14. albuterol sulfate 90 mcg/actuation inhalation DAILY 
15. Amitriptyline 10 mg PO QHS 
16. FoLIC Acid 1 mg PO DAILY 
17. ixekizumab 80 mg/mL subcutaneous Other 
18. Acetylcysteine 20% ___ mL NEB Q4H:PRN congestion 
19. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN congestion 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*100 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 1 packet(s) by mouth once a 
day Disp #*30 Packet Refills:*1 
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
6.  Acetylcysteine 20% ___ mL NEB Q4H:PRN congestion 
use with Albuteral  
7.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN congestion  
8.  albuterol sulfate 90 mcg/actuation inhalation DAILY  
9.  Amitriptyline 10 mg PO QHS  
10.  Aspirin 81 mg PO DAILY  
11.  Atorvastatin 40 mg PO QPM  
12.  budesonide-formoterol 160-4.5 mcg/actuation inhalation BID  

13.  DULoxetine ___ 90 mg PO DAILY  
14.  FoLIC Acid 1 mg PO DAILY  
15.  Furosemide 40 mg PO BID  
16.  Gabapentin 600 mg PO QHS  
17.  GuaiFENesin ER 1200 mg PO Q12H  
18.  ixekizumab 80 mg/mL subcutaneous q month 
may resume ___  
19.  losartan-hydrochlorothiazide 100-25 mg oral DAILY 
start ___.  Methotrexate 10 mg PO 1X/WEEK (___) 
starting on ___  
21.  Metoprolol Tartrate 50 mg PO DAILY  
22.  Omeprazole 20 mg PO DAILY  
23.  Potassium Chloride 80 mEq PO BID  
24.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Severe symptomatic tracheobronchomalacia.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for surgery on your airway 
and you've recovered well. You are now ready for discharge. 

* Continue to use your incentive spirometer 10 times an hour 
while awake.

* Check your incisions daily and report any increased redness or 
drainage.   The upper portion of your wound is covered with a 
dry gauze and tegaderm so that you can shower.  The dressing 
should be changed daily until the area is dry.

* You may need pain medication once you are home but you can 
wean it over the next week as the discomfort resolves.  Make 
sure that you have regular bowel movements while on narcotic 
pain medications as they are constipating which can cause more 
problems.  Use a stool softener or gentle laxative to stay 
regular.

* No driving while taking narcotic pain medication.

* Take Tylenol on a standing basis to avoid more opiod use.

* Continue to stay well hydrated and eat well to heal your 
incisions

* No heavy lifting > 10 lbs for 4 weeks.

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
  * No tub bathing, swimming or hot tubs until incision healed
  * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

* Use oxygen at 1 LPM during the night to maintain saturations > 
91%

* Use your nebulizers as needed for any congestion or wheezing. 
(see med sheet)

 Call Dr. ___ ___ if you experience:
  -Fevers > 101 or chills
  -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

 
Followup Instructions:
___